US04524071
D. 2- [[2-[[[5-[(Dimethylamino)methyl]-2-furanyl]methyl]thio]ethyl]amino]-5-(3-pyridinyloxy)-4(3H)-pyrimidinone
A mixture of 2-(methylthio)-5-(3-pyridinyloxy)-4(3H)-pyrimidinone (1.18 g) and 5-[[(2-aminoethyl)thio]methyl]-N,N-dimethyl-2-furanmethanamine (2.14 g) was heated at 140° for 6 h. the residue was chromatographed (silica/ethyl acetate-methanol, 1:1) to give the title compound (1.0 g) as a yellow gum.

reactant | 2-(methylthio)-5-(3-pyridinyloxy)-4(3H)-pyrimidinone | 1.18 g | CSC1=NC=C(C(N1)=O)OC=1C=NC=CC1 | C10H9N3O2S
reactant | 5-[[(2-aminoethyl)thio]methyl]-N,N-dimethyl-2-furanmethanamine | 2.14 g | NCCSCC1=CC=C(O1)CN(C)C | C10H18N2OS
product | 2- [[2-[[[5-[(Dimethylamino)methyl]-2-furanyl]methyl]thio]ethyl]amino]-5-(3-pyridinyloxy)-4(3H)-pyrimidinone | 1.0 g | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)OC=1C=NC=CC1 | C19H23N5O3S
